US04695573
9-(4-Methoxybenzylamino)-1,2,3,4-tetrahydroacridin-1-ol
3,4-Dihydro-9-(4-methoxybenzylamino)acridin-1(2H)-one (4.25 g) was dissolved in 75 ml of dry THF and chilled with ice-water. 1M lithium aluminum hydride in THF (7.0 ml) was then added dropwise. After 15 minutes the reaction was quenched by the sequential dropwise addition of 0.4 ml of water, 0.4 ml of 15% sodium hydride and 1.2 ml of water. The inorganic salts were filtered off, the solvents were evaporated, and the residue recrystallized from dichloromethane-ether to give 3.0 g of analytically pure product, mp 163°-165° C.

reactant | 3,4-Dihydro-9-(4-methoxybenzylamino)acridin-1(2H)-one | 4.25 g | COC1=CC=C(CNC=2C3=CC=CC=C3N=C3CCCC(C23)=O)C=C1 | C21H20N2O2
reactant | lithium aluminum hydride | 1M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 75 ml | C1CCOC1 | C4H8O
solvent | THF | 7.0 ml | C1CCOC1 | C4H8O
product | 9-(4-Methoxybenzylamino)-1,2,3,4-tetrahydroacridin-1-ol | COC1=CC=C(CNC=2C3=CC=CC=C3N=C3CCCC(C23)O)C=C1 | C21H22N2O2
